US04152442
(a) 1-Acetyl-4-allyl-semicarbazide
Allyl isocyanate (25 g, 0.30 mol) was added slowly to a boiling solution of acethydrazide (22.2 g, 0.30 mol) in dry benzene (300 ml). The mixture was heated for 1 hour whereupon 2 layers formed. The benzene was then evaporated off and the residue triturated with ether to yield the title compound as a white solid. (m.p. 71°-74° C. ).

reactant | Allyl isocyanate | 0.30 mol, 25 g | C(C=C)N=C=O | C4H5NO
reactant | acethydrazide | 0.30 mol, 22.2 g | C(C)(=O)NN | C2H6N2O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 1-Acetyl-4-allyl-semicarbazide | C(C)(=O)NNC(=O)NCC=C | C6H11N3O2
